Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Elective admission for autologous stem cell transplant
 
Major Surgical or Invasive Procedure:
- Central line placement
- Autologous stem cell transplant 

 
History of Present Illness:
Mr. ___ is a ___ with mantle cell lymphoma/leukemia with 
central nervous system involvement who is admitted for 
autologous stem cell transplantation. He feels well without 
concerns. He acknowledges poor oral intake, but denies 
nausea/vomiting or diarrhea.

 
Past Medical History:
ONCOLOGIC HISTORY:
 * ___ - C1 CHOP
 * ___ - Admitted urgently due to choroidal cellular
infiltrate in the left eye concerning for CNS involvement from
his Mantle Cell lymphoma/leukemia.  MRI imaging consistent with
this. 
 * ___ - High dose methotrexate, complicated by acute renal
insufficiency with creatinine peaking at 2.2 felt most likely
from precipitation in the renal tubules.  Creatinine has 
trending
downward, stabilizing at 1.5. Discharged on ___.
 * ___ and ___ - Received Rituxan in divided doses
with mild reaction. 
 * ___ - High dose Ara-C.  Dose decreased to 1000 mg/m2 
due
to his age and renal function; received 2 doses on ___, 1 dose
on ___ and 1 dose on ___.  On Neupogen support during nadir,
required transfusion of red cells and platelets.
 * ___ - C2 RCHOP 
 * ___ - High dose Ara-C.  Dose decreased to 1000 mg/m2 
due
to age and renal function.  High dose MTX on hold with renal
insufficiency.
 * ___ - C3 RCHOP
 * Restaging scan shows interval improvement of lymphoma.  MRI 
of
head with resolution of previous enhancement.  
 * ___ - High dose Ara-C.  Dose decreased to 1000 mg/m2 due
to age and renal function. 
 * ___ - Repeat LP and IT Ara-C given
 * ___ - High dose cytoxan for stem cell mobilization
 * ___ - Started stem cell collections with Neupogen and
Mozibil and collected ~ 5 million CD34 cells/kg over 4 days.
 .
PAST MEDICAL HISTORY:  
- Mantle cell lymphoma/leukemia
- Heterozygous for Factor V Leiden and low Protein S activity of
39%, repeated on ___, now normal 
- Hypertension
- Prostate hypertrophy 
- Arthritis  
- Erectile dysfunction  
- Diverticulosis  
- Disc degeneration, lumbar  
- Sensorineural hearing loss with longstanding tinnitus
- Status post appendectomy
- Status post prostate biopsy (incisional)
- Status post repair of deviated nasal septum
.

 
Social History:
___
Family History:
No lymphoma or leukemia in family. Mother had bone cancer, died 
at age ___ with also history of ___. Father died at age 
___ with h/o hypertension, stroke. One brother s/p CABG, stroke 
and ETOH use.
 
Physical Exam:
On admission:
VS: T 98.1  bp 131/70  HR 79  RR 18  SaO2 96RA
GEN: NAD, awake, alert  
HEENT: EOMI, sclera anicteric, conjunctivae clear, OP moist and 
without lesion
NECK: Supple  
CV: Reg rate, normal S1, S2. No m/r/g.   
CHEST: Resp unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  Port on left chest is accessed 
and non-tender
ABD: Soft, NT, ND, bowel sounds present
MSK: normal muscle tone and bulk
EXT: No c/c, normal perfusion
SKIN: warm skin, ___ non-tender nodule on back 1.5cm in largest 
diameter
NEURO: oriented x 3, normal attention, no focal deficits, intact 
sensation to light touch
PSYCH: appropriate

At discharge:
VS: 98.2/99.5 96/58 90 18 98%RA 
GEN: NAD, awake, alert  
HEENT: EOMI, sclerae anicteric, conjunctivae clear, OP clear, 
blue filling exposed on right upper molar
NECK: Supple  
CV: RRR, normal S1, S2. No m/r/g.  
CHEST: Resp unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi. Port on left chest is accessed and 
non-tender  
ABD: Soft, NT, ND, bowel sounds present  
MSK: normal muscle tone and bulk  
EXT: No c/c, normal perfusion, petechia overlying anterior 
distal shin  
SKIN: warm skin, small non-tender nodule on back 1.5cm in 
largest diameter, diffuse erythematous, macular, confluent, non 
pruritic rash on trunc
NEURO: oriented x 3, normal attention, no focal deficits, intact 
sensation to light touch  
PSYCH: appropriate  
 
 
Pertinent Results:
On admission:
___ 05:47PM   GLUCOSE-107* UREA N-27* CREAT-1.2 SODIUM-142 
POTASSIUM-3.9 CHLORIDE-107 TOTAL CO2-26 ANION GAP-13
___ 05:47PM   CALCIUM-8.6 PHOSPHATE-3.9 MAGNESIUM-2.2
___ 05:42PM URINE  OSMOLAL-214
___ 05:31PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:31PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-TR
___ 05:31PM URINE  RBC-<1 WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 10:40AM   GLUCOSE-113*
___ 10:40AM   UREA N-30* CREAT-1.5* SODIUM-143 
POTASSIUM-4.5 CHLORIDE-104 TOTAL CO2-27 ANION GAP-17
___ 10:40AM   ALT(SGPT)-21 AST(SGOT)-22 LD(LDH)-162 ALK 
PHOS-90 TOT BILI-0.4 DIR BILI-0.1 INDIR BIL-0.3
___ 10:40AM   TOT PROT-7.0 ALBUMIN-4.7 GLOBULIN-2.3 
CALCIUM-9.7 PHOSPHATE-4.1 MAGNESIUM-2.4 URIC ACID-6.4
___ 10:40AM   WBC-3.6*# RBC-3.26*# HGB-11.3*# HCT-32.4*# 
MCV-99* MCH-34.7* MCHC-34.9 RDW-17.2*
___ 10:40AM   NEUTS-83* BANDS-3 LYMPHS-8* MONOS-5 EOS-0 
BASOS-0 ___ MYELOS-1*
___ 10:40AM   HYPOCHROM-NORMAL ANISOCYT-1+ POIKILOCY-NORMAL 
MACROCYT-OCCASIONAL MICROCYT-NORMAL POLYCHROM-NORMAL
___ 10:40AM   PLT SMR-NORMAL PLT COUNT-191#
___ 10:40AM   ___ PTT-31.3 ___
 
At discharge: 
___ 07:00AM BLOOD WBC-8.7 RBC-3.10* Hgb-10.4* Hct-29.6* 
MCV-95 MCH-33.6* MCHC-35.2* RDW-17.1* Plt Ct-34*
___ 07:00AM BLOOD Neuts-87* Bands-3 Lymphs-3* Monos-6 Eos-0 
Baso-0 Atyps-1* ___ Myelos-0
___ 07:00AM BLOOD Hypochr-1+ Anisocy-1+ Poiklo-1+ 
Macrocy-1+ Microcy-NORMAL Polychr-NORMAL Ovalocy-1+
___ 07:00AM BLOOD ___ PTT-32.6 ___
___ 07:00AM BLOOD Glucose-103* UreaN-16 Creat-1.0 Na-138 
K-4.4 Cl-102 HCO3-27 AnGap-13
___ 07:00AM BLOOD ALT-24 AST-29 LD(LDH)-232 AlkPhos-93 
TotBili-0.6
___ 07:00AM BLOOD Calcium-8.6 Phos-3.2 Mg-2.1
 
Pending: 
___ 04:35PM BLOOD PARVOVIRUS B19 DNA-PND
___ Immunology (CMV) CMV Viral Load-PENDING 
INPATIENT 
___ CATHETER TIP-IV WOUND CULTURE-FINAL 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 

Microbiology:
C. difficile (___): Negative
CMV (___): Negative
___ CATHETER TIP-IV WOUND CULTURE-FINAL negative
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
negative
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
negative 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
negative  
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
negative  
 
Studies:
___ CXR (PA and lateral):  Heart size is top normal, 
stable.  Mediastinum is unremarkable.  In the right lower lung, 
there was a questionable opacity seen on the portable radiograph 
but no evidence is currently seen with abnormality most likely 
reflecting summation of vascular shadows.  If patient's symptoms 
persist, assessment with a chest CT to exclude the possibility 
of radiographically occult process might be considered. Right 
central venous line tip is at the level of superior SVC. 
 
___ CXR: Left lung is clear.  Infrahilar opacity in the 
right lung could be  atelectasis, but in any case a bedside 
chest radiographs should not be relied  upon to exclude 
pneumonia in a patient under these circumstances.  Heart size  
top normal.  No pulmonary edema and no appreciable pleural 
effusion.  Right subclavian line ends in the upper-to-mid SVC. 
 
FDG tumor imaging from ___ shows  
1. No new FDG disease or lymphadenopathy.  
2. Unchanged regional tracer uptake in the gastric cardia,  
possibly physiologic versus inflammatory in nature.  
3. Multinodular thyroid with increased FDG uptake in a  
left-sided nodule compared to prior PET-CT.  
  
ECHOCARDIOGRAM from ___ shows LVEF of > 60%.  
 
PFT's from ___ with FVC 108%, FEV1 104%, and DLCO 89%.
 
Brief Hospital Course:
Mr. ___ is a ___ with with mantle cell lymphoma/leukemia with 
central nervous system involvement admitted for autologous stem 
cell transplantation on BEAM regimen. 
 
<< Active Issues:
# Mantle Cell Lymphoma: He underwent autologous stem cell 
transplantation on BEAM regimen, with home Bactrim and acyclovir 
prophylaxis held on admission and subsequently resumed per 
protocol. He received filgrastim treatment through his nadir, as 
well as supportive transfusions with pRBC and platelets. In the 
setting of poor appetite and oral mucositis, total parenteral 
nutrition was initiated. As his mucositis improved, he was 
transitioned back to PO and was tolerating comfortably. 
 
# Neutropenic fever: Spiked to 102.4 overnight ___ and to 
100.7 over the next day, but has remained afebrile until ___ 
AM when he spiked to 100.5. This resolved without intervention. 
Started on emperic vancomycin / cefepime, which was discontinued 
(___). Infectious workup unrevealing.  Line site was not 
erythematous or nontender, but was most likely source of fever 
so was pulled on ___ and tip sent for culture, which was 
negative. CXR from ___ without evidence of pneumonia.  Blood 
and urine cultures negative. 
   
# Acute kidney injury: Creatinine of 1.5 on admission, versus 
recent baseline of 1, was likely prerenal in etiology in the 
setting of poor oral intake, with improvement to ___ 
throughout the rest of admission following IV fluid 
administration.
 
# Presyncope: He experienced lightheadedness on minimal 
ambulation within his room on ___, likely due to orthostatic 
hypotension in the setting of poor oral intake and anemia, with 
symptomatic improvement following supportive pRBC transfusion. 
Noncontrast head CT was negative for acute intracranial process.
  
# Afib with RVR: ___ at 10AM pt in afib with RVR to 120s. SBP 
stable in 130s and patient asymptomatic. No history of afib, 
unclear etiology, but possibly related to infection given fever 
or anemia given slowly downtrending hct. Resolved ___ after 
approximately 7 hours.  TSH normal. CXR PA/Lat without 
pneumonia.  He was started on metoprolol which he continued for 
several days, but discontinued prior to discharge.
 
# Retinal vein occlusion: Felt likely in setting of CNS 
involvement and choroidal deposits noted. S/p Avastin injections 
on ___, and ___ with laser treatment. Also with 
h/o heterozygous Factor V Leiden and low Protein S activity, 
with repeat Protein S normal. 
 
<< Transitional Issues:
-Code status: Full.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Allopurinol ___ mg PO DAILY 
3. Lorazepam 0.5-1 mg PO Q8H:PRN insomnia or nausea 
4. Omeprazole 20 mg PO DAILY PRN indigestion 
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN bone pain 
6. Sulfameth/Trimethoprim DS 1 TAB PO MON, WEDS, FRI 
7. Dexamethasone 8 mg PO Q12H Duration: 2 Days 
8. lactoperoxi-gluc oxid-pot thio *NF* 15 ml Mucous Membrane BID 

9. Ondansetron 8 mg PO Q8H:PRN nausea 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q12H 
RX *acyclovir 400 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*45 Tablet Refills:*0
2. Lorazepam 0.5-1 mg PO Q8H:PRN insomnia or nausea 
RX *lorazepam [Ativan] 0.5 mg ___ tabs by mouth twice a day Disp 
#*15 Tablet Refills:*0
3. Omeprazole 20 mg PO DAILY PRN indigestion 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*15 
Capsule Refills:*0
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN bone pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
5. Ondansetron 8 mg PO Q8H:PRN nausea 
RX *ondansetron 8 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*15 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- Mantle cell lymphoma admitted for autologous stem cell 
transplant 
- Febrile neutropenia
- Thrombocytopenia requiring multiple platelet transfusions 
- Anemia requiring multiple blood transfusions
- Epistaxis
- Hyponatremia 
- Acute kidney injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___.  You were 
admitted for a stem cell transplant with your on cells 
(autologous  transplant).  
 
You had a fever while your cell counts were low, so you were on 
antibiotics for several days and these have since been 
discontinued. You required several platelet and blood 
transfusions while you were here and you had a couple episodes 
of nose bleeding due to your low platelets.  Your counts 
recovered well and you began to more like your baseline, so you 
were discharged to the ___ with close follow up. 
 
 
While you were having a fever and had low blood counts, your 
heart went into a rhythm called atrial fibrillation. This 
resolved after several hours, but we had started you on a heart 
medicine called metoprolol to help control the rate.  You should 
follow up with your PCP to determine whether you need to 
continue taking this medication.  
 
Followup Instructions:
___